US06946559B2
Production of 1-(6-bromopyridin-2-yl)benzyl alcohol
n-Butylmagnesium chloride (3.49 mmol) in 2.05M tetrahydrofuran solution (1.70 mL) was added to ice-cooled n-butyllithium (7.03 mmol) in 1.45M hexane solution (4.85 mL) (“Hexanes”, Product of Wako Pure and Chemical Industries, Ltd. The solvent was used in the same way in the working examples hereinafter described). The mixture was stirred at 0° C. for 15 minutes, and then cooled to −10° C. to give a suspension. 2,6-Dibromopyridine (2.37 g, 10.0 mmol) in toluene (25 mL) was added to the suspension below −5° C. over a period of 10 minutes or more. The mixture was stirred at −10° C. for 2 hours, and then benzaldehyde (1.35 ml, 13.3 mmol) was added. After stirring at 0° C. for one hour, 1M acetic acid solution (15 mL) was added. The organic phase was separated, and the aqueous phase was extracted twice with ethyl acetate (10 mL). The organic extracts were combined, washed with an aqueous saturated solution (10 mL) of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure to remove the solvent. The resultant residue was purified by flash column chromatography on silica gel in a developing solvent system of hexane-ethyl acetate (15:1, v/v) to give the title compound (2.56 g) in 97% yield as a pale yellowish viscous oil.

reactant | n-Butylmagnesium chloride | 3.49 mmol | C(CCC)[Mg]Cl
reactant | n-butyllithium | 7.03 mmol | C(CCC)[Li]
reactant | 2,6-Dibromopyridine | 10.0 mmol, 2.37 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | benzaldehyde | 13.3 mmol, 1.35 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 2.05M, 1.70 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.45M, 4.85 mL | CCCCCC | C6H14
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 1M, 15 mL | C(C)(=O)O | C2H4O2
product | 1-(6-bromopyridin-2-yl)benzyl alcohol | 2.56 g, 97% yield | BrC1=CC=CC(=N1)C1(CO)CC=CC=C1 | C12H12BrNO
